US07300951B2
A. Methyl 2-amino-3-(trifluoromethyl)-4,4,4-trifluorobutanoate
A solution of 4,4,4,4′,4′,4′-hexafluoro-DL-valine (2.00 g, 8.89 mmol) in CH2Cl2:MeOH (4:1, 50 mL) was stirred under nitrogen at 0° C. Tetramethylsilane (TMS) diazomethane (5.33 nL, 2.0 M in hexane) was added dropwise, and the resulting solution stirred for 3 h at 25° C. After this time period, the reaction was complete by TLC (10% MeOH:chloroform). After concentration, the resulting residue (1.34 g, 63%) was used directly in the next reaction without further purification.

reactant | 4,4,4,4′,4′,4′-hexafluoro-DL-valine | 8.89 mmol, 2.00 g | FC(C(C(N)C(=O)O)C(F)(F)F)(F)F | C5H5F6NO2
reactant | Tetramethylsilane (TMS) diazomethane | 2.0 M, 5.33 nL | [Si](C)(C)(C)C=[N+]=[N-].C[Si](C)(C)C
reactant | MeOH | CO | CH4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 MeOH | 50 mL | C(Cl)Cl.CO
product | Methyl 2-amino-3-(trifluoromethyl)-4,4,4-trifluorobutanoate | NC(C(=O)OC)C(C(F)(F)F)C(F)(F)F | C6H7F6NO2
